US06090571
c. Phenyl 10-methylacridan-9-carboxylate
Phenyl 10-methylacridinium-9-carboxylate trifluoromethanesulfonate (10 mg, 0.0216 mmol) was suspended in absolute ethanol (10 mL) and the mixture was refluxed for 15 min to obtain a clear solution. Ammonium chloride (88 mg, 1.6 mmol) was added by portions to the solution followed by zinc (108 mg, 1.6 mmol). Addition of zinc caused the yellow color of the solution to disappear immediately. The colorless solution was refluxed for 2 h. TLC of the reaction mixture showed complete conversion to a non polar material. The solution was filtered and precipitate was washed with ethanol (3×20 mL). The filtrate was concentrated to obtain an off-white solid which was redissolved in CH2Cl2 and washed with water (2×15 mL). The organic layer was dried over Na2SO4 and concentrated to yield the crude product which was purified by preparative TLC using (30% ethyl acetate:hexane). Pure product was obtained as an off-white solid. 1H NMR (CDCl3) δ 3.38 (s, 3H), 5.16 (s, 1H), 6.89-7.37 (m, 13H); 13C NMR (CDCl3) δ 33.29, 49.72, 112.93, 120.19, 121.36, 125.73, 128.67, 129.16, 129.26, 142.37, 151.04, 170.22.

reactant | Phenyl 10-methylacridinium-9-carboxylate trifluoromethanesulfonate | 0.0216 mmol, 10 mg | FC(S(=O)(=O)[O-])(F)F.C[N+]1=C2C=CC=CC2=C(C2=CC=CC=C12)C(=O)OC1=CC=CC=C1
reactant | Ammonium chloride | 1.6 mmol, 88 mg | [Cl-].[NH4+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | zinc | 1.6 mmol, 108 mg | [Zn] | Zn
product | Phenyl 10-methylacridan-9-carboxylate | CN1C=2C=CC=CC2C(C2=CC=CC=C12)C(=O)OC1=CC=CC=C1 | C21H17NO2
